US04960787
Similarly prepared is N-acetyl-N-acetyloxy-3-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-allylamine. The starting material is prepared by condensing 1-(2,6-dimethylphenyl)-1H-pyrrole-3-carboxaldehyde with diethyl phosphonoacetaldehyde diethylacetal to obtain 3-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-acrolein. The aldehyde is then converted to the oxime and reduced to the hydroxylamine according to previously described procedures.

reactant | N-acetyl-N-acetyloxy-3-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-allylamine | C(C)(=O)N(OC(C)=O)CC=CC1=CN(C=C1)C1=C(C=CC=C1C)C | C19H22N2O3
reactant | 1-(2,6-dimethylphenyl)-1H-pyrrole-3-carboxaldehyde | CC1=C(C(=CC=C1)C)N1C=C(C=C1)C=O | C13H13NO
reactant | diethyl phosphonoacetaldehyde diethylacetal | C(C)OC(C(P(=O)(O)O)(CC)CC)OCC | C10H23O5P
product | 3-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-acrolein | CC1=C(C(=CC=C1)C)N1C=C(C=C1)C=CC=O | C15H15NO
